US06627630B1
3.70 g of potassium phthalimide was dissolved in 20 ml of N,N-dimethylformamide; 2.58 ml of epibromohydrin was added, followed by stirring at room temperature for 15 hours. Ice water was added to the reaction mixture, followed by extraction with ethyl acetate; the extract was washed with saline, dried over magnesium sulfate and concentrated under reduced pressure; ethyl ether was added to the residue; the crystal precipitated was collected to yield 3.7 g of N-(2-oxiranylmethoxy)phthalimide. 0.61 g of N-(2-oxiranylmethoxy)phthalimide and 0.802 g of 4-(diphenylmethoxy)piperidine were dissolved n 10 ml of ethanol, followed by thermal refluxing for 2 hours. The reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate. The desired fraction was collected to yield 1.30 g of N-[3-[4-(diphenylmethoxy)piperidino-2-hydroxypropyl]phthalimide as an oily substance. This oily substance was dissolved in 10 ml of ethanol; 0.14 ml of hydrazine monohydrate was added, followed by thermal refluxing for 3 hours. After cooling, the mixture was concentrated under reduced pressure; ethanol was added to the residue; the crystal precipitated was collected, dissolved in 3 ml of a 1 N aqueous solution of sodium hydroxide and 10 ml of water and extracted with ethyl acetate; the extract was washed with saline, dried over sodium sulfate and concentrated under reduced pressure; the crystal obtained was collected to yield 0.76 g of the title compound.

reactant | potassium phthalimide | 3.70 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | epibromohydrin | 2.58 ml | C(Br)C1CO1 | C3H5BrO
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(2-oxiranylmethoxy)phthalimide | 3.7 g | O1C(C1)CON1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
